US07074801B1
Ethyl (2-methoxyethoxy)acetate
150 mL solution of 10 g (2-methoxyethoxy)acetic acid and 1 mL conc. sulfuric acid in ethanol was heated for 3 hours under reflux, and then the solvent was removed. The resulting residue was diluted with ethyl acetate and washed with an aqueous saturated sodium bicarbonate solution and brine. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was removed, whereby 9.5 g of the title compound (colorless oil) was obtained.

reactant | (2-methoxyethoxy)acetic acid | 10 g | COCCOCC(=O)O | C5H10O4
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | Ethyl (2-methoxyethoxy)acetate | 9.5 g | COCCOCC(=O)OCC | C7H14O4
